US07618960B2
Synthesis of 4-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]morpholine-2,3-dione
A solution of 2-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]ethanol (102 mg) in diethyl oxalate (2 ml) was stirred at 170° C. for one hour and 30 minutes. Diethyl oxalate was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (heptane:ethyl acetate 9:1 to 6:1) to obtain 48 mg of the title compound.

reactant | 2-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]ethanol | 102 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NCCO)C | C27H32F3NO2Si
reactant | diethyl oxalate | 2 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 4-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propyl]morpholine-2,3-dione | 48 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)N1C(C(OCC1)=O)=O)C | C29H30F3NO4Si
